US08242133B2
To a mixture of 0.34 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole and 6 ml of chloroform, 0.48 g of 65% m-chloroperbenzoic acid was added at room temperature. The solution was stirred while heating at 50° C. for 1.5 hours. The reaction mixture was cooled to room temperature, and diluted with ethyl acetate, and then washed with a saturated aqueous solution of sodium hydrogencarbonate twice and a saturated sodium chloride solution once, sequentially. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.23 g of 3-fluoro-4-[5-(trifluoromethyl)benzoxazole-2-yl]pyridine N-oxide (hereinafter, referred to as “active compound 26”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.34 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
reactant | m-chloroperbenzoic acid | 0.48 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-fluoro-4-[5-(trifluoromethyl)benzoxazole-2-yl]pyridine N-oxide | 0.23 g | FC=1C=[N+](C=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F)[O-] | C13H6F4N2O2
